US06492348B1
9-{(3aR,4R,6S,6aR)-6-[3-(tert-butyl)-1,2,4-oxadiazol-5-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-N-isobutyl-9H-purin-6-amine
To a solution of 9-{(3aR,4R,6S,6aR)-6-[3-(tert-butyl)-1,2,4-oxadiazol-5-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-6-(1H-1,2,3-benzotriazol-1-yloxy)9H-purine (50 mg) in dimethylsulfoxide (0.4 ml) was added diisopropylethylamine (0.1 ml) and isobutylamine (0.038 ml). The mixture was stirred at 20° C. for 16 h under nitrogen. The mixture was then evaporated to dryness in vacuo to give a residue that was purified by automated preparative HPLC to afford the title compound (14 mg) as a white compound.

reactant | 9-{(3aR,4R,6S,6aR)-6-[3-(tert-butyl)-1,2,4-oxadiazol-5-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-6-(1H-1,2,3-benzotriazol-1-yloxy)9H-purine | 50 mg | C(C)(C)(C)C1=NOC(=N1)[C@H]1O[C@H]([C@H]2[C@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)ON2N=NC1=C2C=CC=C1 | C24H25N9O5
reactant | diisopropylethylamine | 0.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isobutylamine | 0.038 ml | C(C(C)C)N | C4H11N
solvent | dimethylsulfoxide | 0.4 ml | CS(=O)C | C2H6OS
product | 9-{(3aR,4R,6S,6aR)-6-[3-(tert-butyl)-1,2,4-oxadiazol-5-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-N-isobutyl-9H-purin-6-amine | 14 mg | C(C)(C)(C)C1=NOC(=N1)[C@H]1O[C@H]([C@H]2[C@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)NCC(C)C | C22H31N7O4
